US04379154
A 10 N aqueous solution of sodium hydroxide (84 cc) is added dropwise, in the course of 10 minutes and whilst keeping the temperature below 18° C., to a solution of 2-(pyridazin-3-ylmethyl)-isothiourea dihydrochloride (106 g) in distilled water (220 cc). After heating for 20 minutes at 75° C. and then cooling to 10° C., a 10 N aqueous solution of sodium hydroxide (50 cc) and then 1-bromo-3-chloropropane (69 g) are added, whilst stirring, and stirring is continued for 15 hours at a temperature of about 20° C. The reaction mixture is then extracted three times with methylene chloride (340 cc in total). The organic extracts are combined, washed with distilled water (250 cc) and dried over anhydrous sodium sulphate. After filtration, the solution obtained is poured onto neutral silica gel (80 g) contained in a column of diameter 2.7 cm; the column is then eluted with methylene chloride (700 cc). The first fraction (200 cc) is discarded. The second fraction (500 cc) is collected and concentrated to dryness under reduced pressure (20 mm Hg; 2.7 kPa) at 35° C. Pyridazin-3-ylmethyl 3-chloropropyl sulphide (60 g) is thus obtained in the form of a red oil.

reactant | sodium hydroxide | 84 cc | [OH-].[Na+]
reactant | 2-(pyridazin-3-ylmethyl)-isothiourea dihydrochloride | 106 g | Cl.Cl.N1=NC(=CC=C1)CSC(N)=N
reactant | sodium hydroxide | 50 cc | [OH-].[Na+]
reactant | 1-bromo-3-chloropropane | 69 g | BrCCCCl | C3H6BrCl
solvent | water | 220 cc | O | H2O
product | Pyridazin-3-ylmethyl 3-chloropropyl sulphide | 60 g | ClCCCSCC=1N=NC=CC1 | C8H11ClN2S
